US08012974B2
Racemic trans 3-Dimethylcarbamoyl-cyclohexyl carbamic acid tert-butyl ester (0.437 g, 1.62 mmol) was dissolved in 50 mL of MeOH and cooled to 20° C. Acetyl chloride (1.2 mL, 16.9 mmol) was added dropwise and when the addition was complete the reaction mixture was allowed to warm up to RT and stirred for 16 h. The solvent was removed under vacuum concentrated to dryness to give racemic trans 3-amino-cyclohexanecarboxylic acid dimethylamide hydrochloride which was used as is in the following step.

reactant | Racemic trans 3-Dimethylcarbamoyl-cyclohexyl carbamic acid tert-butyl ester | 1.62 mmol, 0.437 g | C(C)(C)(C)OC(N[C@@H]1C[C@H](CCC1)C(N(C)C)=O)=O | C14H26N2O3
reactant | Acetyl chloride | 16.9 mmol, 1.2 mL | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 50 mL | CO | CH4O
product | racemic trans 3-amino-cyclohexanecarboxylic acid dimethylamide hydrochloride | Cl.CN(C(=O)[C@@H]1C[C@H](CCC1)N)C | InChI=1S/C9H18N2O.ClH/c1-11(2)9(12)7-4-3-5-8(10)6-7;/h7-8H,3-6,10H2,1-2H3;1H/t7-,8-;/m0./s1
